US04778796
To a solution of 7.1 g of t-butyl 6-methylnicotinate in 100 ml of dichloromethane, 9.8 g of m-chloroperbenzoic acid is added slowly, and the mixture is stirred at room temperature for 1 hour. The reaction mixture is washed successively with 10% sodium carbonate solution and water, dried over magnesium sulfate, and concentrated. The residue is slowly added to 7.1 g of acetic anhydride at 100°-120° C., and the mixture is refluxed with stirring for 1 hour. After cooling, the remaining acetic anhydride is decomposed with ethanol, and the mixture is concentrated. The residue is neutralized with saturated aqueous potassium bicarbonate and extracted with three 50-ml portions of chloroform. The combined extracts are dried over magnesium sulfate and concentrated to give crude 5-t-butoxycarbonyl-2-pyridylmethanol acetate.

reactant | t-butyl 6-methylnicotinate | 7.1 g | CC1=NC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
reactant | m-chloroperbenzoic acid | 9.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-t-butoxycarbonyl-2-pyridylmethanol acetate | C(C)(=O)OCC1=NC=C(C=C1)C(=O)OC(C)(C)C | C13H17NO4
